US08865704B2
trans-4-{[2-(2-Nitro-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester
CDI (27.6 mmol, 4.47 g) was added portion wise to a stirring solution of o-nitrophenyl acetic acid (27.6 mmol, 5.00 g) in ethyl acetate (20 mL) at room temperature. The mixture was left stirring for 1 h and then was sequentially added of a solution of 4-Aminomethyl-cyclohexanecarboxylic acid methyl ester hydrogen chloride salt in ethyl acetate (20 mL), triethyl amine (72.5 mmol, 10 mL), DCM (5 mL) and acetone (5 mL). The final mixture was stirred at room temperature overnight. The reaction mixture was filtered through a paper filter, the filtered solution was washed with a (1N) NaOH (2×15 mL) and then with brine, the organic phase was dried over anhydrous Na2SO4, the solvent was removed under reduced pressure to obtain the titled compound. (8.2 g, 90%).

reactant | CDI | 27.6 mmol, 4.47 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | o-nitrophenyl acetic acid | 27.6 mmol, 5.00 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | 4-Aminomethyl-cyclohexanecarboxylic acid methyl ester hydrogen chloride salt | Cl.COC(=O)C1CCC(CC1)CN
reactant | triethyl amine | 72.5 mmol, 10 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | trans-4-{[2-(2-Nitro-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)CNC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C17H22N2O5
